US07517992B2
5-(3-flurophenoxy)-2-nitropyridine
Sodium hydride (60% dispersion in mineral oil, 0.11 g, 2.7 mmol) was mixed with 3-5 ml of dry dimethylformamide and 3-fluorophenol (0.244 ml, 2.7 mmol) was added to the stirred suspension. When the gas evolution was ceased the reaction mixture was heated at stirring at 60° C. and 5-bromo-2-nitropyridine (0.5 g, 2.5 mmol) was added to the reaction mixture in one portion. The reaction-mixture was stirred at 60° C. for about 12 hours. The reaction mixture was then mixed with 50 ml of water and extracted into methylene chloride (3×20 ml). Organic extract was washed with water and brine, dried over magnesium sulfate and concentrated by rotary evaporation. The resulting mixture was purified by column chromatography on silica (30 g, EtOAc/hexane 1:3) to give 190 mg (33% yield) of desired product.

reactant | Sodium hydride | 2.7 mmol, 0.11 g | [H-].[Na+]
reactant | dimethylformamide | 3-5 ml | CN(C=O)C | C3H7NO
reactant | 3-fluorophenol | 2.7 mmol, 0.244 ml | FC=1C=C(C=CC1)O | C6H5FO
reactant | 5-bromo-2-nitropyridine | 2.5 mmol, 0.5 g | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
solvent | water | 50 ml | O | H2O
product | 5-(3-flurophenoxy)-2-nitropyridine | 190 mg, 33% yield | FC=1C=C(OC=2C=CC(=NC2)[N+](=O)[O-])C=CC1 | C11H7FN2O3
